US07786044B2
3. Preparation of 2-(4-Chloro-2,5-difluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
1-Bromo-4-chloro-2,5-difluorobenzene (1.11 g, 4.9 mmol) was dissolved in tetrahydrofuran (THF; 15 mL) and cooled to −10° C. A 2.0M solution of isopropyl-magnesium chloride (2.7 mL, 5.4 mmol) in THF was added dropwise via syringe. The reaction mixture was stirred at −10° C. for 1 h, allowed to warm toward 0° C. for 1 h, then cooled again to −10° C. A solution of 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.0 g, 5.4 mmol) in THF (1.0 mL) was then added dropwise and the reaction mixture was allowed to warm to ambient temperature. The reaction mixture was then added to diethyl ether and extracted with 1N sodium hydroxide twice. The aqueous phases were combined, acidified to pH 3 with concentrated HCl, and extracted with dichloromethane twice. The organic phases were combined, dried, filtered and concentrated to give the title compound (0.97 g, 72.3% yield) that was used without further purification: 1H NMR (CDCl3) δ 7.45 (dd, 1H), 7.09 dd, 1H), 1.36 (s, 12H).

reactant | 1-Bromo-4-chloro-2,5-difluorobenzene | 4.9 mmol, 1.11 g | BrC1=C(C=C(C(=C1)F)Cl)F | C6H2BrClF2
reactant | isopropyl-magnesium chloride | 5.4 mmol, 2.7 mL | C(C)(C)[Mg]Cl
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 5.4 mmol, 1.0 g | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | THF | 1.0 mL | O1CCCC1 | C4H8O
product | 2-(4-Chloro-2,5-difluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.97 g, 72.3% yield | ClC1=CC(=C(C=C1F)B1OC(C(O1)(C)C)(C)C)F | C12H14BClF2O2
